US05131911
c/ Preparation of 4-hydroxy-5-methoxyindole
This compound is obtained according to the operating method described in Example 1d, in which the 4-benzyloxy-5-ethoxyindole is replaced with 4-benzyloxy-5-methoxyindole. A white powder (yield=90%, m.p.=146° C., decomposition) is obtained.

reactant | 4-benzyloxy-5-ethoxyindole | C(C1=CC=CC=C1)OC1=C2C=CNC2=CC=C1OCC | C17H17NO2
reactant | 4-benzyloxy-5-methoxyindole | C(C1=CC=CC=C1)OC1=C2C=CNC2=CC=C1OC | C16H15NO2
product | 4-hydroxy-5-methoxyindole | yield=90% | OC1=C2C=CNC2=CC=C1OC | C9H9NO2
